US07994205B2
2-phenyl-1-(2-thienylsulfonyl)-1H-imidazole-4-carbaldehyde
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (1.73 g) in tetrahydrofuran (100 mL) was added sodium hydride (60% in oil, 603 mg) at room temperature, and the mixture was stirred for 15 min. Thiophene-2-sulfonyl chloride (2.39 g) was added to the reaction mixture, and the mixture was stirred for 1 hr. Saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=3:2→2:3) to give the title compound as a colorless oil (yield 750 mg, 23%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 1.73 g | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | sodium hydride | 603 mg | [H-].[Na+]
reactant | Thiophene-2-sulfonyl chloride | 2.39 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-phenyl-1-(2-thienylsulfonyl)-1H-imidazole-4-carbaldehyde | yield 750 mg, 23% | C1(=CC=CC=C1)C=1N(C=C(N1)C=O)S(=O)(=O)C=1SC=CC1 | C14H10N2O3S2
